US08247431B2
Step 4: Preparation of 6-nitro-5-trifluoromethanesulfonyloxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester
A solution of 5-hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester (6.82 g) in methylene chloride (50 mL) is treated with triethylamne (6.69 g) and a catalytic amount of 4-dimethylamino pyridine (0.26 g). To this solution is added trifluoromethanesulfonic anhydride (9.1 g), maintaining the temperature at 25° C. for 1 h. The reaction mixture is diluted with methylene chloride and then washed successively with diluted aqueous hydrochloric acid, water, saturated aqueous sodium bicarbonate and water. The methylene chloride phase is dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. The residue is purified by column chromatography (hexane/ethyl acetate=9:1) to give 6.6 g of the title compound of the formula

reactant | 5-hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 6.82 g | COC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)O)[N+](=O)[O-] | C12H7F3N2O5
reactant | trifluoromethanesulfonic anhydride | 9.1 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylamino pyridine | 0.26 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-nitro-5-trifluoromethanesulfonyloxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 6.6 g | COC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C13H6F6N2O7S
